US04186199
An initial solution of 22.6 g of 4-chloro-3-nitrobenzotrifluoride and 29.8 g of indoline in 500 ml of xylene is stirred and refluxed under N2 for 18 hours. The indoline HCl salt which separates is filtered off, and the xylene filtrate is washed with water, with 3 N HCl, with 3 N--NaOH, and finally again with water, dried over MgSO4, and concentrated to an oil on a rotovac at 60° C., first at aspirator pressure, then in vacuo. This oil is taken up in 100 ml hexane and allowed to crystallize 18 hours to yield 1-(2-nitro-4-trifluoromethylphenyl)indoline, m.p. 89°-92° C.

reactant | 4-chloro-3-nitrobenzotrifluoride | 22.6 g | ClC1=C(C=C(C=C1)C(F)(F)F)[N+](=O)[O-] | C7H3ClF3NO2
reactant | indoline | 29.8 g | N1CCC2=CC=CC=C12 | C8H9N
solvent | xylene | 500 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 1-(2-nitro-4-trifluoromethylphenyl)indoline | [N+](=O)([O-])C1=C(C=CC(=C1)C(F)(F)F)N1CCC2=CC=CC=C12 | C15H11F3N2O2
